US06489344B1
1 mmol of tert-butyl 4-[2-(2,4-dichlorophenyl)-2-oxoethyl]piperazinecarboxylate was heated to 80° C. in neat N,N-dimethylformamidedimethyl acetal for six hours. The reaction mixture was concentrated in vacuo and purified by trituration with diethyl ether to obtain tert-butyl 4-{2-(2,4-dichlorophenyl)-1-[(dimethylamino)methylene]-2-oxoethyl}piperazinecarboxylate.

reactant | tert-butyl 4-[2-(2,4-dichlorophenyl)-2-oxoethyl]piperazinecarboxylate | 1 mmol | ClC1=C(C=CC(=C1)Cl)C(CN1CCN(CC1)C(=O)OC(C)(C)C)=O | C17H22Cl2N2O3
solvent | N,N-dimethylformamidedimethyl acetal | CN(C)C(OC)OC | C5H13NO2
product | tert-butyl 4-{2-(2,4-dichlorophenyl)-1-[(dimethylamino)methylene]-2-oxoethyl}piperazinecarboxylate | ClC1=C(C=CC(=C1)Cl)C(C(=CN(C)C)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C20H27Cl2N3O3
